US06004977
7-Methoxy-2-(4-pyridinylamino)-1,2,3,4-tetrahydroisoquinolin-8-ol hydrobromide
(8-Benzyloxy-5-bromo-3,4-dihydro-7-methoxy-1H-isoquinolin-2-yl)-4-pyridinylamine) (11 g) was dissolved in ethanol (250 ml) and slowly added to 5% palladium-on-carbon (2.2 g). The mixture was hydrogenated at 55 psi overnight in a parr shaker at ambient temperature. The reaction mixture was filtered through a pad of Celite, and the pad was washed well with methanol. The filtrate was concentrated, and the precipitate was collected and dried to give 8.3 g, 94.6% of product, mp 235-236° C.

reactant | (8-Benzyloxy-5-bromo-3,4-dihydro-7-methoxy-1H-isoquinolin-2-yl)-4-pyridinylamine | C(C1=CC=CC=C1)OC=1C(=CC(=C2CCN(CC12)NC1=CC=NC=C1)Br)OC | C22H22BrN3O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 2.2 g | [Pd] | Pd
product | 7-Methoxy-2-(4-pyridinylamino)-1,2,3,4-tetrahydroisoquinolin-8-ol hydrobromide | 8.3 g, 94.6% | Br.COC1=CC=C2CCN(CC2=C1O)NC1=CC=NC=C1 | InChI=1S/C15H17N3O2.BrH/c1-20-14-3-2-11-6-9-18(10-13(11)15(14)19)17-12-4-7-16-8-5-12;/h2-5,7-8,19H,6,9-10H2,1H3,(H,16,17);1H
